US04630896
In a manner analogous to that described in Example 2, paragraphs (a) and (b), trans-4-pentylcyclohexanecarboxaldehyde was reacted in a Wittig reaction with methoxymethyl-triphenylphosphonium chloride and potassium t-butylate and the resulting enol ether was subsequently hydrolyzed in tetrahydrofuran/2N hydrochloric acid to give (trans-4-pentylcyclohexyl)acetaldehyde.

reactant | trans-4-pentylcyclohexanecarboxaldehyde | C(CCCC)[C@@H]1CC[C@H](CC1)C=O | C12H22O
reactant | methoxymethyl-triphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 2N | O1CCCC1 | C4H8O
product | (trans-4-pentylcyclohexyl)acetaldehyde | C(CCCC)[C@@H]1CC[C@H](CC1)CC=O | C13H24O
